US05536725
This compound is prepared in a manner analogous to that of Step A of Example 5, using 11.1 grams (0.05 mole) of 2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethanol, 8.7 grams (0.1 mole) of lithium bromide, and 13.5 grams (0.125 mole) of trimethylsilyl chloride in 100 mL of acetonitrile, yielding 2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl bromide.

reactant | 2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethanol | 0.05 mole, 11.1 grams | FC1(OC2=C(C1(F)F)C=CC=C2CO)F | C9H6F4O2
reactant | lithium bromide | 0.1 mole, 8.7 grams | [Br-].[Li+]
reactant | trimethylsilyl chloride | 0.125 mole, 13.5 grams | C[Si](C)(C)Cl | C3H9ClSi
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2,2,3,3-tetrafluoro-2,3-dihydrobenzofuran-7-ylmethyl bromide | FC1(OC2=C(C1(F)F)C=CC=C2CBr)F | C9H5BrF4O
